US04288385
Preparation of 3-[(1-Ethylpropyl)amino]-6-methyl-2,4-dinitrobenzyl chloroacetate
A mixture of 3-[(1-ethylpropyl)amino]-6-methyl-2,4-dinitrobenzyl alcohol (1.1 g; 0.0037 mol), chloroacetic anhydride (0.64 g; 0.0037 mol), sulfuric acid (1 drop) and benzene (10 ml) is stirred for 24 hours at room temperature. Tlc indicates incomplete reaction; therefore, additional chloroacetic anhydride (0.1 g; 0.0005 mol) is added and stirring continued for 24 hours. Next, water is added, the mixture stirred for 0.5 hour, and the layers separated. The organic layer is diluted with ether, washed with dilute potassium carbonate solution, dried and evaporated to leave an oil (1.2 g; 86.8%), which readily solidifies, melting point 45°-48° C.

reactant | 3-[(1-ethylpropyl)amino]-6-methyl-2,4-dinitrobenzyl alcohol | 0.0037 mol, 1.1 g | C(C)C(CC)NC=1C(=C(CO)C(=CC1[N+](=O)[O-])C)[N+](=O)[O-] | C13H19N3O5
reactant | chloroacetic anhydride | 0.0037 mol, 0.64 g | ClCC(=O)OC(CCl)=O | C4H4Cl2O3
reactant | benzene | 10 ml | C1=CC=CC=C1 | C6H6
reactant | chloroacetic anhydride | 0.0005 mol, 0.1 g | ClCC(=O)OC(CCl)=O | C4H4Cl2O3
catalyst | sulfuric acid | 1 drop | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | 3-[(1-Ethylpropyl)amino]-6-methyl-2,4-dinitrobenzyl chloroacetate | ClCC(=O)OCC1=C(C(=C(C=C1C)[N+](=O)[O-])NC(CC)CC)[N+](=O)[O-] | C15H20ClN3O6
